### PR TITLE
[Merged by Bors] - feat(Algebra/ModuleCat): extension of scalars is comonadic for a faithfully flat algebra

### PR DESCRIPTION
**Pull request by chrisflav**
This is also known as faithfully flat descent, but the proof that these statements indeed imply each other is much longer than this PR (see #24434).

Co-authored-by: Dagur Asgeirsson <dagurtomas@gmail.com>
Co-authored-by: Jack McKoen <mckoen@ualberta.ca>
Co-authored-by: Joël Riou <rioujoel@gmail.com>
Co-authored-by: Adam Topaz <atopaz@fastmail.com>

This contribution was created as part of the AIM workshop
"Formalizing algebraic geometry" in June 2024.

---

This PR continues the work from #14203.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Descent.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+variable {A B : Type u} [CommRing A] [CommRing B] {f : A →+* B}
+
+instance (M : ModuleCat.{u} A) [Module.Flat A M] : PreservesFiniteLimits <| tensorLeft M := by
+  have h2 := (Functor.preservesFiniteColimits_iff_forall_exact_map_and_epi (tensorLeft M)).mp
+    (inferInstanceAs <| PreservesFiniteColimits (tensorLeft M))
+  rw [Functor.preservesFiniteLimits_iff_forall_exact_map_and_mono]
+  refine fun S hS ↦ ⟨(h2 S hS).1, ?_⟩
+  have := hS.mono_f
+  rw [ModuleCat.mono_iff_injective] at this ⊢
+  exact Module.Flat.lTensor_preserves_injective_linearMap _ this
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Descent.lean]: Could this be an iff?
Also is the universe restriction necessary?

File: Mathlib/Algebra/Homology/ShortComplex/ExactFunctor.lean [hunk 2]
```diff
@@ -147,6 +147,11 @@ lemma preservesFiniteLimits_tfae : List.TFAE
     (S.map F).exact_and_mono_f_iff_f_is_kernel |>.2 ⟨KernelFork.mapIsLimit _ hS.fIsKernel F⟩
   tfae_finish
 
+lemma preservesFiniteLimits_iff_forall_exact_map_and_mono :
+    PreservesFiniteLimits F ↔
+      ∀ (S : ShortComplex C), S.ShortExact → (S.map F).Exact ∧ Mono (F.map S.f) :=
+  ((Functor.preservesFiniteLimits_tfae F).out 0 3).symm
```
Comment (erdOne) [inline Mathlib/Algebra/Homology/ShortComplex/ExactFunctor.lean]:
```suggestion
  (Functor.preservesFiniteLimits_tfae F).out 3 0
```

File: Mathlib/Algebra/Homology/ShortComplex/ExactFunctor.lean [hunk 3]
```diff
@@ -239,6 +244,11 @@ lemma exact_tfae : List.TFAE
   | ⟨h1, h2⟩, _, h => h.map F
   tfae_finish
 
+lemma preservesFiniteColimits_iff_forall_exact_map_and_epi :
+    PreservesFiniteColimits F ↔
+      ∀ (S : ShortComplex C), S.ShortExact → (S.map F).Exact ∧ Epi (F.map S.g) :=
+  ((Functor.preservesFiniteColimits_tfae F).out 0 3).symm
```
Comment (erdOne) [inline Mathlib/Algebra/Homology/ShortComplex/ExactFunctor.lean]:
```suggestion
  (Functor.preservesFiniteColimits_tfae F).out 3 0
```

File: Mathlib/Algebra/Category/ModuleCat/Descent.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/Algebra/Category/ModuleCat/Descent.lean]: The universe restriction is because `ModuleCat` only has a `MonoidalCategory` structure for `ModuleCat.{u}` and `R : CommRingCat.{u}`. This could be changed in the future, but I don't think it should block this.

File: Mathlib/Algebra/Category/ModuleCat/Descent.lean [hunk 4]
```diff
@@ -0,0 +1,65 @@
...
+
+universe u
+
+noncomputable section
+
+open CategoryTheory Comonad ModuleCat Limits MonoidalCategory
+
+variable {A B : Type u} [CommRing A] [CommRing B] {f : A →+* B}
+
+lemma ModuleCat.preservesFiniteLimits_tensorLeft_of_flat (hf : f.Flat) :
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Descent.lean]:
```suggestion
lemma ModuleCat.preservesFiniteLimits_tensorLeft_of_ringHomFlat (hf : f.Flat) :
```
Or else one probably wouldn't think of this statement when they see this name.

**Review by erdOne — APPROVED** [review]
Otherwise LGTM
Thanks!
maintainer delegate
